US06063782
Methyl 3-formyl-4,5-dimethyl-1-(2-propynyl)pyrrole-2-carboxylate
The title compound was prepared as white crystals in 89.3% yeild in a similar procedure to that described in Referential Example 9 by using methyl 3-formyl-4,5-dimethylpyrrole-2-carboxylate and 3-bromo-1-propyne.

reactant | methyl 3-formyl-4,5-dimethylpyrrole-2-carboxylate | C(=O)C1=C(NC(=C1C)C)C(=O)OC | C9H11NO3
reactant | 3-bromo-1-propyne | BrCC#C | C3H3Br
product | Methyl 3-formyl-4,5-dimethyl-1-(2-propynyl)pyrrole-2-carboxylate | C(=O)C1=C(N(C(=C1C)C)CC#C)C(=O)OC | C12H13NO3
